US04137310
Similarly, 2,5-dichloro-4-nitroaniline is allowed to react with methoxide ion to afford 2-chloro-4-nitro-5-methoxyaniline, m.p. 150°-152° C. Also by allowing 2,3-dichloro-4-nitroaniline to react with sodium ethoxide, sodium propoxide, sodium butoxide and sodium benzyloxide, 3 ethoxy-, 3-propoxy-, 3-isopropoxy-, 3-butoxy- and 3-benzyloxy-4-nitroaniline are obtained.

reactant | 2,5-dichloro-4-nitroaniline | ClC1=C(N)C=C(C(=C1)[N+](=O)[O-])Cl | C6H4Cl2N2O2
reactant | methoxide | C[O-]
product | 2-chloro-4-nitro-5-methoxyaniline | ClC1=C(N)C=C(C(=C1)[N+](=O)[O-])OC | C7H7ClN2O3
